US09376449B2
To a mixture of 3-{2-[(difluoroacetyl)amino]ethyl}-5-hydroxy-N-methyl-1H-indole-2-carboxamide (102 mg) and N,N-dimethyl formamide (3.00 mL) were added potassium carbonate (55.2 mg) and ethyl iodide (0.0318 mL), followed by stirring at room temperature for 2 hours, then warming to 60° C., and stirring overnight. To this mixture was added water, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine and subsequently dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and then the obtained residue was purified by silica gel chromatography (chloroform:methanol=100:0 to 94:6) to obtain a colorless solid. The obtained solid was washed with hexane:ethyl acetate=2:1 to obtain 3-{2-[(difluoroacetyl)amino]ethyl}-5-ethoxy-N-methyl-1H-indole-2-carboxamide (9.00 mg) as a colorless solid.

reactant | 3-{2-[(difluoroacetyl)amino]ethyl}-5-hydroxy-N-methyl-1H-indole-2-carboxamide | 102 mg | FC(C(=O)NCCC1=C(NC2=CC=C(C=C12)O)C(=O)NC)F | C14H15F2N3O3
reactant | N,N-dimethyl formamide | 3.00 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 55.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.0318 mL | C(C)I | C2H5I
solvent | water | O | H2O
product | 3-{2-[(difluoroacetyl)amino]ethyl}-5-ethoxy-N-methyl-1H-indole-2-carboxamide | 9.00 mg | FC(C(=O)NCCC1=C(NC2=CC=C(C=C12)OCC)C(=O)NC)F | C16H19F2N3O3
